US08871792B2
Butyric acid 5-[N′-((R)-2-carboxy-2-hydroxyethyl)-N′-(3′-chlorobiphenyl-4-ylmethyl)hydrazinocarbonyl]isoxazol-3-yloxymethyl Ester
A mixture of chloromethyl butyrate (20.5 μL, 164 μmol) and NaI (24.5 mg, 164 μmol) in acetone (2.0 mL, 27 mmol) was stirred at 60° C. for 1 hour, then cooled to room temperature and added to a mixture of (R)-3-[N-(3′-chlorobiphenyl-4-ylmethyl)-N′-(3-hydroxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid 2-oxo-2-phenylethyl ester (30.0 mg, 54.5 μmol) and Et3N (38.0 μL, 273 μmol) in acetone (1 mL). The resulting mixture was stirred at room temperature for 2 hours, concentrated, dissolved in AcOH (2 mL), filtered, and purified by reverse phase preparative HPLC. The desired fractions were combined and lyophilized. Zinc (178 mg, 2.7 mmol) and AcOH (1.0 mL, 18 mmol) was added and the resulting mixture was stirred at room temperature for 2 hours. The mixture was filtered and purified by reverse phase preparative HPLC to yield the title compound (2.5 mg). MS m/z [M+H]+ calc'd for C25H26ClN3O8, 532.14. found 532.2.

reactant | chloromethyl butyrate | 164 μmol, 20.5 μL | C(CCC)(=O)OCCl | C5H9ClO2
reactant | NaI | 164 μmol, 24.5 mg | [Na+].[I-]
reactant | (R)-3-[N-(3′-chlorobiphenyl-4-ylmethyl)-N′-(3-hydroxyisoxazole-5-carbonyl)hydrazino]-2-hydroxypropionic acid 2-oxo-2-phenylethyl ester | 54.5 μmol, 30.0 mg | O=C(COC([C@@H](CN(NC(=O)C1=CC(=NO1)O)CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)O)=O)C1=CC=CC=C1 | C28H24ClN3O7
reactant | Et3N | 273 μmol, 38.0 μL | CCN(CC)CC | C6H15N
reactant | AcOH | 18 mmol, 1.0 mL | CC(=O)O | C2H4O2
solvent | acetone | 1 mL | CC(=O)C | C3H6O
catalyst | Zinc | 2.7 mmol, 178 mg | [Zn] | Zn
solvent | acetone | 27 mmol, 2.0 mL | CC(=O)C | C3H6O
product | Butyric acid 5-[N′-((R)-2-carboxy-2-hydroxyethyl)-N′-(3′-chlorobiphenyl-4-ylmethyl)hydrazinocarbonyl]isoxazol-3-yloxymethyl Ester | 2.5 mg | C(=O)(O)[C@@H](CN(NC(=O)C1=CC(=NO1)OCOC(CCC)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)O | C25H26ClN3O8
